US06503949B1
The above 4-(spiro[5.5]undec-3-ylaminomethyl)benzoic acid methyl ester (1.02 g, 3.2 mmol) was added acetonitrile (50 mL) and 3-(methylthio)phenylisocyanate (668 mg, 4 mmol). Upon stirring for 2 days, the reaction appeared incomplete as shown by HPLC, so another portion of 3-(methylthio)phenylisocyanate (240 mg) was added. After stirring for 2 hours the solvent was evaporated. The residue was taken up in dichloromethane (2 mL) and purified by chromatography on silica using dichloromethane as eluent affording 4-[3-(3-methylsulfanyl-phenyl)-1-spiro[5.5]undec-3-yl-ureidomethyl]benzoic acid methyl ester (680 mg).

reactant | 4-(spiro[5.5]undec-3-ylaminomethyl)benzoic acid methyl ester | 3.2 mmol, 1.02 g | COC(C1=CC=C(C=C1)CNC1CCC2(CC1)CCCCC2)=O | C20H29NO2
reactant | 3-(methylthio)phenylisocyanate | 4 mmol, 668 mg | CSC=1C=C(C=CC1)N=C=O | C8H7NOS
reactant | 3-(methylthio)phenylisocyanate | 240 mg | CSC=1C=C(C=CC1)N=C=O | C8H7NOS
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-[3-(3-methylsulfanyl-phenyl)-1-spiro[5.5]undec-3-yl-ureidomethyl]benzoic acid methyl ester | 680 mg | COC(C1=CC=C(C=C1)CN(C(=O)NC1=CC(=CC=C1)SC)C1CCC2(CC1)CCCCC2)=O | C28H36N2O3S
